US08633200B2
(2R)-2-tert-butoxy-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid
The title compound was synthesized using a two step method starting from the racemic ester precursor for Example 39. The racemic ester was separated into two enantiomers using a chiral column and (2R)-methyl 2-tert-butoxy-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate was isolated. Chiral separation method: Chiralpak AD-H preparative column, 20×250 mm, 5 μm to give two enantiomers. Mobile Phase: 15% MeOH in CO2 @ 150 Bar. Temp: 35° C. Flow rate: 45.0 mL/min. for 14 min. UV was monitored @ 254 nm. Hydrolysis of (2R)-methyl 2-tert-butoxy-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate as described in Example 1 provided the title compound with 100% enantiomeric excess. Retention time: 9.94 min. Chiral SFC method: Chiralpak AD-H analytical column, 4.6×250 mm, 5 μm. Mobile Phase: 15% MeOH in CO2. Temp: 35° C. Flow rate: 2.0 mL/min. for 14 min. UV monitored @ 254 nm.

reactant | MeOH | CO | CH4O
reactant | (2R)-methyl 2-tert-butoxy-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | C(C)(C)(C)O[C@@H](C(=O)OC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C2=CC=CC=C2)C | C30H32FN3O4
solvent | CO2 | C(=O)=O | CO2
product | (2R)-2-tert-butoxy-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | C(C)(C)(C)O[C@@H](C(=O)O)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C2=CC=CC=C2)C | C29H30FN3O4
